US07557213B2
Preparation of 3-(3,4-Dimethyl-benzoyl)-1-(6-pyrimidin-5-yl-pyridin-2-ylmethyl)-1H-quinolin-4-one (4oo)
90 mg (0.2 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one 4 mm, 50 mg (0.40 mmol) of pyrimidin-5-boronic acid, 18.3 mg (0.02 mmol) of Pd2(dba)3, 21 mg (0.08 mmol) of triphenylphosphine were dissolved in 2 mL of tetrahydrofuran. To the resultant solution was added 0.5 mL (1.0 mmol) of 2N Na2CO3 aqueous solution and the mixture was stirred at 75° C. for 18 h. The reaction mixture was quenched by pouring into a container having 20 mL of water. The crude product precipitated out of solution and was isolated by filtration. The crude product 4oo was purified by flash chromatography to yield 14 mg of colorless a solid: LC-MSD, m/z for C28H22N4O2, [M+H]+=447.5, [M+2H]+=448.5; Reverse phase HPLC (gradient acetonitrile 0.1% TFA 20-95% in 4 min) retention time=2.055 min; 1H NMR (400 MHz, CDCl3/HCl): δ 2.35 (d, 6H), 5.56 (s, 2H), 7.17 (d, 1H), 7.36-7.48 (m, 2H), 7.52-7.66 (m, 3H), 7.72 (d, 1H), 7.81 (t, 1H), 8.37 (s, 1H), 8.42-8.50 (m, 1H), 9.22-9.32 (m, 3H).

reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one | 0.2 mmol, 90 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)C)C)=O | C24H19BrN2O2
reactant | pyrimidin-5-boronic acid | 0.40 mmol, 50 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | triphenylphosphine | 0.08 mmol, 21 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 1.0 mmol, 2N, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | Pd2(dba)3 | 0.02 mmol, 18.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(3,4-Dimethyl-benzoyl)-1-(6-pyrimidin-5-yl-pyridin-2-ylmethyl)-1H-quinolin-4-one | CC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)C=2C=NC=NC2)C=CC1C | C28H22N4O2
